US07262212B2
Sodium hydride (840 mg, 24.5 mmol) was gradually added to a solution of tert-butyl 3-oxopiperazine-1-carboxylate (4.1 g, 20.4 mmol) in DMF (30 ml) while cooling in an ice-bath, and the mixture was stirred at room temperature for 30 minutes. A solution of 4-trifluoromethylbenzyl chloride (5 g, 20.9 mmol) in DMF (5 ml) was added dropwise to the mixture while cooling in an ice-bath, which was stirred at room temperature for 2 hours. The reaction mixture was poured into ice water, and extracted with ethyl acetate twice. The extract was washed with water twice and brine, and dried over sodium sulfate. After filtration, the filtrate was concentrated under reduced pressure. The residue was purified by silica gel column chromatography (methylene chloride) to afford tert-butyl 3-oxo-4-(4-trifluoromethylbenzyl)piperazine-1-carboxylate (6.7 g, yield 91%) as a colorless crystalline powder.

reactant | Sodium hydride | 24.5 mmol, 840 mg | [H-].[Na+]
reactant | tert-butyl 3-oxopiperazine-1-carboxylate | 20.4 mmol, 4.1 g | O=C1CN(CCN1)C(=O)OC(C)(C)C | C9H16N2O3
reactant | 4-trifluoromethylbenzyl chloride | 20.9 mmol, 5 g | FC(C1=CC=C(CCl)C=C1)(F)F | C8H6ClF3
solvent | DMF | 30 ml | CN(C)C=O | C3H7NO
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | tert-butyl 3-oxo-4-(4-trifluoromethylbenzyl)piperazine-1-carboxylate | 6.7 g, yield 91% | O=C1CN(CCN1CC1=CC=C(C=C1)C(F)(F)F)C(=O)OC(C)(C)C | C17H21F3N2O3
